US07501430B2
11c: Preparation of 1-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]ethanone
To a mixture of 6-(4-fluoro-3-methoxyphenyl)-imidazo[2,1-b]thiazole (1.0 g, 4.03 mmol) and acetic anhydride (25 ml), heated to 140° C., was added 43 μl of concentrated sulfuric acid. The reaction mixture was heated at 140° C. for 1 hour. The reaction was monitored by HPLC. After one hour, only 10% product was observed. Another 43 μl of concentrated sulfuric acid was added and the mixture was kept at 140° C. for 4 hours. The reaction mixture was then poured onto 50 ml of ice, and diluted with 50 ml of water and the resulting mixture was extracted two times with 100 ml each of ethyl acetate. The combined extracts were washed with two portions of 50 ml of water and two portions of 50 ml of saturated aqueous sodium chloride solution. The organic phase was dried with sodium sulfate, filtered and concentrated in vacuo, to give a brown solid. The product, -[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]ethanone, was purified by flash chromatography (gradient 25%-50% ethyl acetate in hexanes) and obtained as a pale yellow solid (1.12 g, 96%). 400 MHz 1H NMR (DMSO-d6) δ 8.44 (d, J=4.3 Hz, 1H), 7.56 (d, J=4.3 Hz, 1H), 7.43 (dd, J=8.2, 2.0 Hz, 1H), 7.34 (dd, J=11.7, 8.6 Hz, 1H), 7.21 (ddd, J=8.2, 4.3, 2.0 Hz, 1H), 3.89 (s, 3H), 2.14 (s, 3H). LCMS: 291 [M+H].

reactant | 6-(4-fluoro-3-methoxyphenyl)-imidazo[2,1-b]thiazole | 4.03 mmol, 1.0 g | FC1=C(C=C(C=C1)C=1N=C2SC=CN2C1)OC | C12H9FN2OS
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 43 μl | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 43 μl | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
product | 1-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]ethanone | 1.12 g, 96% | FC1=C(C=C(C=C1)C=1N=C2SC=CN2C1C(C)=O)OC | C14H11FN2O2S
